US05380721
The product was prepared by the alkylation of 2-chloro-4-nitrophenol (17.35 g) in DMF (150 mL) with ethyl bromoacetate (16.7 g) in the presence of potassium carbonate (13.8 g) to afford 19.6 g (75.6%) of ethyl 4-nitro-2-chlorophenoxyacetate as a white solid, m.p. 73°- 74° C.; hydrogenation of the latter (10.0 g, 38.5 mmol) in ethanol (200 mL) on a Parr hydrogenator in the presence of 5% platinum on carbon (sulfided) (200 mg) afforded 8.1 g (92%) of ethyl 4-amino-2-chlorophenoxyacetate, m.p. 59°-62° C., after recrystallization from tert-butylmethylether, and finally, treatment of the latter (7.3 g, 31.8 mmol) in CH2Cl2 (75 mL) at 5° C. with pyridine (3.0 mL, 38.7 mmol) and methanesulfonyl chloride (2.29 mL) to afford N-[4-(ethoxycarbonylmethoxy)-3-chlorophenyl]methanesulfonamide, m.p. 87°-88° C. after recrystallization from tert-butylmethylether.

reactant | 2-chloro-4-nitrophenol | 17.35 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | ethyl bromoacetate | 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | ethyl 4-nitro-2-chlorophenoxyacetate | 19.6 g, 75.6% | [N+](=O)([O-])C1=CC(=C(OCC(=O)OCC)C=C1)Cl | C10H10ClNO5
